US06864025B2
N-Dodecyl carbazole was prepared from carbazole (66 g, 0.40 mol), 1-bromododecane (100 g, 0.41 mol, commercially available from Aldrich, Milwaukee, Wis.), benzyltriethyl ammonium chloride (4.48 g, 0.02 mol), toluene (400 ml), and sodium hydroxide (200 g of 50% aqueous solution) according to the procedure described for N-heptylcarbazole

reactant | carbazole | 0.40 mol, 66 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 1-bromododecane | BrCCCCCCCCCCCC | C12H25Br
reactant | sodium hydroxide | 200 g | [OH-].[Na+]
reactant | N-heptylcarbazole | C(CCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C19H23N
catalyst | benzyltriethyl ammonium chloride | 0.02 mol, 4.48 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-Dodecyl carbazole | C(CCCCCCCCCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C24H33N
